US06881844B2
A solution of 2,2,2-trifluoro-1-(6-nitro-1H-indol-3-yl)-ethanone (1.0 g, 3.87 mmol) in N,N-dimethylformamide (10 mL) at 25° C. was treated with potassium carbonate (1.34 g, 9.68 mmol). The resulting mixture was stirred at 25° C. for 10 min and then treated with 2-iodopropane (0.58 mL, 5.81 mmol). The reaction was heated at 65° C. for 3 h. At this time, the reaction was cooled to 25° C. and was partitioned between water (50 mL) and ethyl acetate (50 mL). This mixture was treated with a 1N aqueous hydrochloric acid solution (25 mL). The organic layer was washed with water (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 2,2,2-trifluoro-1-(1-isopropyl-6-nitro-1H-indol-3-yl)-ethanone (581 mg, 98%) as a yellow solid: mp 143-145° C.; EI-HRMS m/e calcd for C14H14F3NO (M+) 269.1027, found 269.1037.

reactant | 2,2,2-trifluoro-1-(6-nitro-1H-indol-3-yl)-ethanone | 3.87 mmol, 1.0 g | FC(C(=O)C1=CNC2=CC(=CC=C12)[N+](=O)[O-])(F)F | C10H5F3N2O3
reactant | potassium carbonate | 9.68 mmol, 1.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 5.81 mmol, 0.58 mL | IC(C)C | C3H7I
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2,2,2-trifluoro-1-(1-isopropyl-6-nitro-1H-indol-3-yl)-ethanone | 581 mg, 98% | FC(C(=O)C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C(C)C)(F)F | C13H11F3N2O3
